US07906517B2
To tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (57 mg) is added 4N-hydrogen chloride/dioxane solution (2 ml) and the mixture is stirred at room temperature overnight. To the reaction solution are added an aqueous saturated sodium hydroxide solution and chloroform, and the mixture is separated, dried over magnesium sulphate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→23:2) to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butanoic acid (46.6 mg). MS (m/z): 746 [M+H]+

reactant | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 57 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)OC(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C39H40F9N3O5
reactant | hydrogen chloride dioxane | 2 ml | Cl.O1CCOCC1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butanoic acid | 46.6 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)OC(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C35H32F9N3O5
